US06251926B1
n-Butyllithium (1.6N hexane solution, 108 ml) was added dropwise to a diethyl ether solution (400 ml) of 3-bromopyridine (25.7 g) at −78° C. over 1 hour under nitrogen atmosphere. After stirring for 30 minutes, a diethyl ether solution (100 ml) of diethyl oxalate (28.6 g) was added dropwise thereto at −78° C. over 1 hour. The reaction mixture was further mixed for 30 minutes, allowed to warm to 0° C., and 1N hydrochloric acid (200 ml) was added thereto. After stirring for 30 minutes, sodium bicarbonate was added thereto to neutralize the reaction mixture. The organic layer was separated, washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain ethyl 3-pyridylglyoxylate (13.1 g, yield 45%) from an ethyl acetate-hexane (1:1, v/v)-eluted fraction.

reactant | n-Butyllithium | 1.6N, 108 ml | C(CCC)[Li]
reactant | 3-bromopyridine | 25.7 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | diethyl oxalate | 28.6 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | hydrochloric acid | 1N, 200 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
product | ethyl 3-pyridylglyoxylate | 13.1 g, yield 45% | N1=CC(=CC=C1)C(C(=O)OCC)=O | C9H9NO3
